US05420128
7-Hydroxy-6-acetyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
A mixture of 534 mg of 3-amino-4-(4-phenylthiophenyl)pyrazole, 484 mg of ethyl ethoxymethyleneacetoacetate, and 15 ml of acetic acid was stirred at room temperature. The precipitate was filtered 30 minutes later, and washed with n-hexane. The mixture of the obtained precipitate, 290 mg of sodium methoxide and 50 ml of toluene was concentrated in vacuo, and 2N hydrochloric acid, methylene chloride and ethyl acetate were added to the residue, and after separating, the organic layer was dried with over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was recrystallized in methylene chloride-ethyl acetate (=1:1), and the title compound was obtained (350 mg)

reactant | 3-amino-4-(4-phenylthiophenyl)pyrazole | 534 mg | NC1=NNC=C1C1=CC=C(C=C1)SC1=CC=CC=C1 | C15H13N3S
reactant | ethyl ethoxymethyleneacetoacetate | 484 mg | C(C)OC=CC(CC(=O)OCC)=O | C9H14O4
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 7-Hydroxy-6-acetyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(C)=O | C20H15N3O2S
